US05430041
In a manner analogous to that described in Example 6, 78 mg (0.26 mmol) of N-benzyloxycarbonyl-L-phenylalanine were coupled with 90 mg (0.26 mmol) of 2(S)-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide to give 72 mg of 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-L-phenylalanyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide as a while solid; MS m/e 628 [M+H]+.

reactant | N-benzyloxycarbonyl-L-phenylalanine | 0.26 mmol, 78 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | 2(S)-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 0.26 mmol, 90 mg | N[C@H]([C@@H](C[C@H]1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C21H34N2O2
product | 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-L-phenylalanyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 72 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@H]([C@@H](C[C@H]1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C38H49N3O5
